US08865726B2
A solution of 2-amino-2-(1-(tert-butoxycarbonyl)piperidin-4-yl)acetic acid (1.0 g, 3.87 mmol) in THF (20 mL) was added 1N NaOH (14 mL, 28.0 mmol) and di-tert-butyl dicarbonate (0.887 g, 4.06 mmol) and stirred at ambient temperature overnight. The mixture was treated with 2N HCl, extracted twice with EtOAc, dried (phase separator silicone treated filter paper) and concentrated to provide 2-(1-(tert-butoxycarbonyl)piperidin-4-yl)-2-(tert-butoxycarbonylamino)acetic acid (1.03 g, 74% yield) as a white foam.

reactant | 2-amino-2-(1-(tert-butoxycarbonyl)piperidin-4-yl)acetic acid | 3.87 mmol, 1.0 g | NC(C(=O)O)C1CCN(CC1)C(=O)OC(C)(C)C | C12H22N2O4
reactant | NaOH | 28.0 mmol, 1N, 14 mL | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 4.06 mmol, 0.887 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | HCl | 2N | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-(1-(tert-butoxycarbonyl)piperidin-4-yl)-2-(tert-butoxycarbonylamino)acetic acid | 1.03 g, 74% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)C(C(=O)O)NC(=O)OC(C)(C)C | C17H30N2O6
